US05750526
19.7 g of 6-trifluoromethyl-quinoline is introduced into 200 ml of tetrachloromethane. 5.2 ml of bromine is instilled and the solution is refluxed for one hour. Within twenty minutes, 7.9 g of pyridine in 8 ml of tetrachloromethane is instilled in the boiling solution. After one hour, it is allowed to cool, decanted from the precipitated salt and the solution is concentrated by evaporation. After column chromatography, 14.6 g of 3-bromo-6-trifluoromethyl-quinoline of melting point 79° C. is obtained.

reactant | 6-trifluoromethyl-quinoline | 19.7 g | FC(C=1C=C2C=CC=NC2=CC1)(F)F | C10H6F3N
reactant | bromine | 5.2 ml | BrBr | Br2
reactant | pyridine | 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | tetrachloromethane | 8 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | tetrachloromethane | 200 ml | ClC(Cl)(Cl)Cl | CCl4
product | 3-bromo-6-trifluoromethyl-quinoline | 14.6 g | BrC=1C=NC2=CC=C(C=C2C1)C(F)(F)F | C10H5BrF3N
